US08461161B2
A mixture of 5-benzimidazole carbonyl chloride (108 mg, 0.5 mmol), (S)—N-(1-(3-aminophenyl)ethyl)-6-chloropyrazin-2-amine (144 mg, 0.5 mmol) and triethylamine (0.7 mL, 5 mmol) was stirred at room temperature for 72 hours. After this time the mixture was allowed to cool to room temperature and was diluted with ethyl acetate (20 mL), washed with saturated aqueous sodium hydrogen carbonate (2×15 mL), brine (15 mL), dried (MgSO4) and concentrated under reduced pressure to give a yellow oil which was purified by flash chromatography (silica, ethyl acetate/methanol) to give (S)—N-(3-(1-(6-chloropyrazin-2-ylamino)ethyl)phenyl)-1H-benzo[d]imidazole-6-carboxamide as a yellow powder.

reactant | 5-benzimidazole carbonyl chloride | 0.5 mmol, 108 mg | N1=CNC2=C1C=CC(=C2)C(=O)Cl | C8H5ClN2O
reactant | (S)—N-(1-(3-aminophenyl)ethyl)-6-chloropyrazin-2-amine | 0.5 mmol, 144 mg | NC=1C=C(C=CC1)[C@H](C)NC1=NC(=CN=C1)Cl | C12H13ClN4
reactant | triethylamine | 5 mmol, 0.7 mL | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | (S)—N-(3-(1-(6-chloropyrazin-2-ylamino)ethyl)phenyl)-1H-benzo[d]imidazole-6-carboxamide | ClC1=CN=CC(=N1)N[C@@H](C)C=1C=C(C=CC1)NC(=O)C=1C=CC2=C(NC=N2)C1 | C20H17ClN6O
